US07799804B2
2-(2,4-Dichlorophenyl)-5-methyl-1-[4-(4,4,4-trifluorobutoxy)-phenyl]-1H-imidazole-4-carboxylic acid piperidin-1-ylamide
1-Iodo-4,4,4-trifluorobutane (376 mg, 1.58 mmol) was added dropwise to a suspension of 2-(2,4-dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-1H-imidazole-4-carboxylic acid piperidin-1-ylamide, from Ex 2, Step 1 (351 mg, 0.79 mmol) and K2CO3 (218 mg, 1.58 mmol) in 50 ml acetone. The reaction mixture was refluxed overnight, cooled, filtered and concentrated. Flash chromatography (silica, hexane:EtOAc 1:2) afforded 200 mg (46%) of the title compound as a white solid.

reactant | 1-Iodo-4,4,4-trifluorobutane | 1.58 mmol, 376 mg | ICCCC(F)(F)F | C4H6F3I
reactant | 2-(2,4-dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)O)C1=C(C=C(C=C1)Cl)Cl | C22H22Cl2N4O2
reactant | K2CO3 | 1.58 mmol, 218 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(2,4-Dichlorophenyl)-5-methyl-1-[4-(4,4,4-trifluorobutoxy)-phenyl]-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | 200 mg, 46% | N1(CCCCC1)NC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)OCCCC(F)(F)F)C1=C(C=C(C=C1)Cl)Cl | C26H27Cl2F3N4O2
